US06200976B1
e. 4-{[6-(N-cyclopentyl-N-(2-ethoxycarbonylethylsulphonyl)-amino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-benzonitrile
Prepared analogously to Example 7f from methyl 3-[cyclopentyl-(3-amino-4-methylamino-phenyl)-sulphamoyl]-propionate and 3-(4-cyano-phenyl)-2-oxo-propionic acid in ethanol.

reactant | methyl 3-[cyclopentyl-(3-amino-4-methylamino-phenyl)-sulphamoyl]-propionate | C1(CCCC1)N(S(=O)(=O)CCC(=O)OC)C1=CC(=C(C=C1)NC)N | C16H25N3O4S
reactant | 3-(4-cyano-phenyl)-2-oxo-propionic acid | C(#N)C1=CC=C(C=C1)CC(C(=O)O)=O | C10H7NO3
reactant | ethanol | C(C)O | C2H6O
product | 4-{[6-(N-cyclopentyl-N-(2-ethoxycarbonylethylsulphonyl)-amino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-benzonitrile | C1(CCCC1)N(S(=O)(=O)CCC(=O)OCC)C=1C=C2N=C(C(N(C2=CC1)C)=O)CC1=CC=C(C#N)C=C1 | C27H30N4O5S
